US05238908
a. Methyl 5-fluoro-2-nitrophenoxyacetate
To 100 g (0.64 mol) of 5-fluoro-2-nitrophenol in 1000 ml of methyl ethyl ketone were added 105 g (0.76 mol) K2CO3 (freshly ground) followed by 107 g (0.70 mol) of methyl bromoacetate. The reaction mixture was refluxed for 6 hours then cooled to room temperature and stirred for an additional 18 hours. The reaction mixture was poured into 1 L of water, the phases were separated, and the aqueous phase was extracted with EtOAc (2×600 ml). The combined organics were then dried (Na2SO4) and concentrated in vacuo to give 135 g (93% yield) of the desired product as a yellow solid, m.p. 85°-57° C.

reactant | 5-fluoro-2-nitrophenol | 0.64 mol, 100 g | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | K2CO3 | 0.76 mol, 105 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl bromoacetate | 0.70 mol, 107 g | BrCC(=O)OC | C3H5BrO2
reactant | water | 1 L | O | H2O
solvent | methyl ethyl ketone | 1000 ml | C(C)C(=O)C | C4H8O
product | Methyl 5-fluoro-2-nitrophenoxyacetate | 135 g, 93% yield | FC=1C=CC(=C(OCC(=O)OC)C1)[N+](=O)[O-] | C9H8FNO5
